US05032165
Preparation of 4-chloro-3-(4-chloro-2-fluoro-5-nitrophenyl)-1-methyl-5-methylsulfinyl-1H-pyrazole (compound No. 217)
A mixture of conc. sulfuric acid (1.65 g) and conc. nitric acid (sp. gr. 1.38, 8.4 mmoles) was added dropwise to a solution of 4-chloro-3-(4-chloro-2-fluorophenyl)-1-methyl-5-methylthio-1H-pyrazole (0.98 g, 3.4 mmoles) in 2 ml conc. sulfuric acid under cooling with ice. After the addition was finished, the reaction mixture was further stirred for 2 hours at room temperature, and allowed to stand overnight. Then the resulting mixture was poured into ice-cold water, and the formed crystals were filtered off, washed successively with water and ether, and dried, crystals (1.04 g) of the title compound, m.p. 151.0° C., yield 87.5%.

reactant | nitric acid | 8.4 mmoles | [N+](=O)(O)[O-] | HNO3
reactant | 4-chloro-3-(4-chloro-2-fluorophenyl)-1-methyl-5-methylthio-1H-pyrazole | 3.4 mmoles, 0.98 g | ClC=1C(=NN(C1SC)C)C1=C(C=C(C=C1)Cl)F | C11H9Cl2FN2S
reactant | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
reactant | sulfuric acid | 1.65 g | S(O)(O)(=O)=O | H2O4S
product | 4-chloro-3-(4-chloro-2-fluoro-5-nitrophenyl)-1-methyl-5-methylsulfinyl-1H-pyrazole | yield 87.5% | ClC=1C(=NN(C1S(=O)C)C)C1=C(C=C(C(=C1)[N+](=O)[O-])Cl)F | C11H8Cl2FN3O3S
